US04251637
Preparation of 3-Dimethylaminopropyl-2-hydroxyethyl Amine
To a one liter stirred autoclave was charged 500 g 3-dimethylaminopropyl amine. A nitrogen atmosphere was provided and the sealed autoclave was heated to 115°C. Ethylene oxide (140 g) was added incrementally over 3 hours. Heating was continued for 15 minutes.

reactant | 3-dimethylaminopropyl amine | 500 g | CN(CCCN)C | C5H14N2
reactant | Ethylene oxide | 140 g | C1CO1 | C2H4O
product | 3-Dimethylaminopropyl-2-hydroxyethyl Amine | CN(CCCNCCO)C | C7H18N2O
